US08877975B2
4.2.1.Synthesis of dimethyl 3-cyano-3-(naphthalen-2-yl)hexanedioate
2-naphthylacetonitrile (3.45 g, 20.6 mmol) and methyl acrylate (9.7 ml, 107 mmol) were suspended in 2-methyl-2-propanol (10 ml). Heat was applied to the reaction vessel until the solution became clear. The mixture was cooled to room temperature, at which time (Bu)4NOH (6.9 mmol, 0.33 equiv.) was added as a solution in 2-methyl-2-propanol:methanol (1:2). The combined reaction mixture was heated to reflux for 4 h under vigorous stirring at which time the reaction appeared complete by GC-MS. After allowing the reaction to cool the mixture was partitioned between H2O (75 ml) and EtOAc (50 ml). The aqueous layer was removed and washed with EtOAc (2×50 ml). The combined organic phases were washed with NaHCO3 (sat. aq.) and brine and dried over MgSO4. After filtration the solvent was removed in vacuo. The crude product was purified by flash column chromatography (25% EtOAc in hexanes) to isolate the title compound as a light yellow oil (5.75 g, 82%).

reactant | 2-naphthylacetonitrile | 20.6 mmol, 3.45 g | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | methyl acrylate | 107 mmol, 9.7 ml | C(C=C)(=O)OC | C4H6O2
solvent | 2-methyl-2-propanol | 10 ml | CC(C)(C)O | C4H10O
solvent | 2-methyl-2-propanol methanol | CC(C)(C)O.CO
product | dimethyl 3-cyano-3-(naphthalen-2-yl)hexanedioate | 5.75 g, 82% | C(#N)C(CC(=O)OC)(CCC(=O)OC)C1=CC2=CC=CC=C2C=C1 | C19H19NO4
